US07446121B2
To a solution of 7-{2-(4-fluoro-phenyl)-4-isopropyl-5-[methyl-(2-methyl-benzyl)-carbamoyl]-2H-pyrazol-3-yl}-3,5-dihydroxy-hept-6-enoic acid methyl ester (1.190 g, 2.21 mmol) in MeOH (50 ml) was added Pd—C (0.1 g). The reaction vessel was evacuated, flushed with nitrogen and then filled with hydrogen (via balloon). Reaction was stirred at 25° C. for 4 hrs. Reaction was then flushed with nitrogen and filtered through a pad of celite. The filtrate was concentrated and purified by column chromatography (30-40% EtOAc/Hex) to afford 7-{2-(4-fluoro-phenyl)-4-isopropyl-5-[methyl-(2-methyl-benzyl)-carbamoyl]-2H-pyrazol-3-yl}-3,5-dihydroxy-heptanoic acid methyl ester (0.792 g, 66%): MS(APCI+) 540.2 m/z (M+H).

reactant | 7-{2-(4-fluoro-phenyl)-4-isopropyl-5-[methyl-(2-methyl-benzyl)-carbamoyl]-2H-pyrazol-3-yl}-3,5-dihydroxy-hept-6-enoic acid methyl ester | 2.21 mmol, 1.190 g | COC(CC(CC(C=CC=1N(N=C(C1C(C)C)C(N(CC1=C(C=CC=C1)C)C)=O)C1=CC=C(C=C1)F)O)O)=O | C30H36FN3O5
solvent | MeOH | 50 ml | CO | CH4O
catalyst | Pd—C | 0.1 g | [Pd] | Pd
product | 7-{2-(4-fluoro-phenyl)-4-isopropyl-5-[methyl-(2-methyl-benzyl)-carbamoyl]-2H-pyrazol-3-yl}-3,5-dihydroxy-heptanoic acid methyl ester | 0.792 g, 66% | COC(CC(CC(CCC=1N(N=C(C1C(C)C)C(N(CC1=C(C=CC=C1)C)C)=O)C1=CC=C(C=C1)F)O)O)=O | C30H38FN3O5
